US04166735
(a) Preparation of isopropyl ortho-tolyl ether
To a solution of 54.1 g (0.5 mole) of ortho-cresol in 150 ml of DMSO was added portionwise and with stirring 12 g of 57% sodium hydroxide. This addition was exothermic to 45° C. After 2 hours at ambient temperature, 61.5 g (0.5 mole) of isopropyl bromide in 50 ml of DMSO was added dropwise with stirring. After another 2 hours, the reaction mixture was poured into 1000 ml of ice water and extracted with ether. Distillation of the dried extract gave 53.9 g of product as a colorless liquid; b.p. 94°-96° C. (30 mm).

reactant | ortho-cresol | 0.5 mole, 54.1 g | C1(=CC=CC=C1O)C | C7H8O
reactant | sodium hydroxide | 12 g | [OH-].[Na+]
reactant | isopropyl bromide | 0.5 mole, 61.5 g | C(C)(C)Br | C3H7Br
solvent | DMSO | 150 ml | CS(=O)C | C2H6OS
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
product | isopropyl ortho-tolyl ether | 53.9 g | C1(=C(C=CC=C1)OC(C)C)C | C10H14O
